US04375559
The identical reduction of o-nitrotoluene as described in Example 3 was performed only the ethanol was eliminated. This reduction resulted in the isolation of a 48% yield of o-hydrazotoluene. Although the o-hydrazotoluene has a good solubility in tetrahydrofuran, the absence of ethanol prohibits the necessary level of sodium hydroxide from being dissolved in the reactive phase.

reactant | o-nitrotoluene | [N+](=O)([O-])C1=C(C=CC=C1)C | C7H7NO2
solvent | ethanol | C(C)O | C2H6O
product | o-hydrazotoluene | 48% yield | CC1=CC=CC=C1NNC2=CC=CC=C2C | C14H16N2
